US07238714B2
Step 1. Methyl 4-({[5-fluoro-2-(4-fluorophenoxy)benzoyl]amino}methyl)benzoate
The title compound was prepared according to the procedure described in step 3 of Example 1 from 5-fluoro-2-(4-fluorophenoxy)benzoic acid (Anales de la Asociacion Quimica Argentina 1985, 73, 509) and methyl 4-(aminomethyl)benzoate hydrochloride: 1H-NMR (CDCl3) δ 7.99 (4H, m), 7.30 (2H, d, J=7.6 Hz), 7.14–7.03 (3H, m), 6.96–6.92 (2H, m), 6.80 (1H, dd, J=9.2, 4.4 Hz), 4.70 (2H, d, J=5.9 Hz), 3.91 (3H, s); MS (ESI) m/z 398 (M+H)+, 396 (M−H)−.

reactant | 5-fluoro-2-(4-fluorophenoxy)benzoic acid | FC=1C=CC(=C(C(=O)O)C1)OC1=CC=C(C=C1)F | C13H8F2O3
reactant | methyl 4-(aminomethyl)benzoate hydrochloride | Cl.NCC1=CC=C(C(=O)OC)C=C1
product | Methyl 4-({[5-fluoro-2-(4-fluorophenoxy)benzoyl]amino}methyl)benzoate | FC=1C=CC(=C(C(=O)NCC2=CC=C(C(=O)OC)C=C2)C1)OC1=CC=C(C=C1)F | C22H17F2NO4
